US07875645B2
2-(2-Fluoro-5-trifluoromethyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2-fluoro-5-trifluoromethyl-phenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): brown solid; MS (ISP): 247.3 ((M+H)+.).

reactant | (2-fluoro-5-trifluoromethyl-phenyl)-acetonitrile | FC1=C(C=C(C=C1)C(F)(F)F)CC#N | C9H5F4N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2-Fluoro-5-trifluoromethyl-benzyl)-4,5-dihydro-1H-imidazole | FC1=C(CC=2NCCN2)C=C(C=C1)C(F)(F)F | C11H10F4N2
